US04587342
A. 7-Ethoxy-8-nitroquinoline
A mixture of 7-chloro-8-nitroquinoline (3.00 g, 14.4 mmol), sodium (2.65 g) and absolute ethanol (100 mL) was refluxed for 4.5 hr and cooled. The tan precipitate was filtered off, slurried with water and dried to give title compound as tan solid (2.72 g, 87%); mp 161°-164°. Anal. Calcd for C11H10N2O3 : C, 60.55; H, 4.62; N, 12.84. Found: C, 60.34; H, 4.68; N, 12.78.

reactant | 7-chloro-8-nitroquinoline | 14.4 mmol, 3.00 g | ClC1=CC=C2C=CC=NC2=C1[N+](=O)[O-] | C9H5ClN2O2
reactant | sodium | 2.65 g | [Na] | Na
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | 7-Ethoxy-8-nitroquinoline | 2.72 g, 87% | C(C)OC1=CC=C2C=CC=NC2=C1[N+](=O)[O-] | C11H10N2O3
